US08809548B2
A 1M solution of potassium tert-butoxide in tetrahydrofuran (80 mL) was added dropwise to (3-carboxypropyl)triphenylphosphonium bromide (17 g, 40 mol) in anhydrous DMSO (20 mL) under nitrogen at 24° C., and the solution was stirred 30 min. before addition of 3-bromobenzaldehyde (4.7 mL, 40 mmol). After several minutes a precipitate was observed and an additional 20 mL of DMSO was added to aid solvation, and the reaction was stirred 18 h. The solution was poured onto water (120 mL) and washed with chloroform. The aqueous layer was acidified with conc. HCl and extracted with chloroform (3×250 mL). The organic phase was concentrated and applied to a 65i Biotage silica gel column, gradient elution from 15-65% B (A=Hexanes; B=ethyl acetate) over 2 L to give J.1, (E)-5-(3-bromophenyl)pent-4-enoic acid, 8.2 g (82%). 1H NMR (300 MHz, CDCl3) δ 7.45 (t, J=1.5 Hz, 1H), 7.30 (dt, J=7.7, 1.5 Hz, 1H), 7.2-7.16 (m, 1H), 7.12 (t, J=7.7 Hz, 1H), 6.40-6.32 (m, 1H), 6.23-6.14 (m, 1H), 2.52 (s, 4H). LC (Cond.-J1): RT=2.0 min; LRMS: Anal. Calcd. for [M−H]− C11H11BrO2: 252.97; found: 252.98.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | (3-carboxypropyl)triphenylphosphonium bromide | 40 mol, 17 g | [Br-].C(=O)(O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-bromobenzaldehyde | 40 mmol, 4.7 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (E)-5-(3-bromophenyl)pent-4-enoic acid | BrC=1C=C(C=CC1)/C=C/CCC(=O)O | C11H11BrO2
